US07087579B2
To a suspension of 4-hydroxybenzaldehyde (0.12 g) and cesium carbonate (0.49 g) in N,N-dimethylformamide (2 mL) was added cyclobutyl bromide (0.15 g), and the mixture was stirred at 65° C. overnight. To the reaction mixture was added 1 mol/L aqueous sodium hydroxide solution, and the mixture was extracted with diethyl ether. The organic layer was washed with 0.5 mol/L aqueous sodium hydroxide solution, water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4-cyclobutyloxybenzaldehyde (0.13 g). To a solution of the obtained 4-cyclobutyloxybenzaldehyde (0.13 g) in methanol (10 mL) was added sodium borohydride (0.056 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mol/L hydrochloric acid solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 4-cyclobutyloxybenzyl alcohol (0.12 g).

reactant | 4-hydroxybenzaldehyde | 0.12 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cesium carbonate | 0.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclobutyl bromide | 0.15 g | C1(CCC1)Br | C4H7Br
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-cyclobutyloxybenzaldehyde | 0.13 g | C1(CCC1)OC1=CC=C(C=O)C=C1 | C11H12O2
